US08309721B2
Synthesis of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-pyrazol-4-yl)methylamino]benzamide
The process is carried out as in stage 3 of Example 3, but using 168.2 mg of 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 165.8 mg of potassium carbonate and 356 mg of 4-aminomethyl-1-methyl-1H-pyrazole in 1.7 ml of dimethyl sulphoxide, in a microwave for 1 hour and 30 minutes at 115° C. 0.76 ml of a 1M aqueous solution of sodium hydroxide, 0.735 ml of a 30% aqueous solution of hydrogen peroxide and 4 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and methanol (95/5 by volume), 95 mg of 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-pyrazol-4-yl)methylamino]benzamide are thus obtained in the form of a pale yellow powder, the characteristics of which are the following:

reactant | 2-fluoro-4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]benzonitrile | 168.2 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(N1)C=C(C=C2)F | C26H14F2N4
reactant | potassium carbonate | 165.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-aminomethyl-1-methyl-1H-pyrazole | 356 mg | NCC=1C=NN(C1)C | C5H9N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 1.7 ml | CS(=O)C | C2H6OS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[4-(6-fluoro-1H-benzimidazol-2-yl)-9H-carbazol-9-yl]-2-[(1-methyl-1H-pyrazol-4-yl)methylamino]benzamide | FC=1C=CC2=C(NC(=N2)C2=CC=CC=3N(C4=CC=CC=C4C23)C2=CC(=C(C(=O)N)C=C2)NCC=2C=NN(C2)C)C1 | C31H24FN7O
